US03992539
Preparation of 3-Trifluoromethyl-9-methyl-s-triazolo-[3,4-a]-isoquinoline: ##SPC19##
A solution of 1-hydrazino-7-methylisoquinoline in excess trifluoroacetic acid was allowed to reflux for two hours. Removal of the excess acid in vacuo, treatment of the residue with sodium bicarbonate solution and filtration provided the crude product which was recrystallized from cyclohexane to give the product in a yield of 20%; m.p. 205°-206°C.

reactant | 1-hydrazino-7-methylisoquinoline | N(N)C1=NC=CC2=CC=C(C=C12)C | C10H11N3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Trifluoromethyl-9-methyl-s-triazolo-[3,4-a]-isoquinoline | yield of 20% | FC(C1=NN=C2N1C=CC1=CC=C(C=C21)C)(F)F | C12H8F3N3
